US07253192B2
F] 5-(4-Trifluoromethoxy-phenyl)-pent-4-yn-1-ol
A mixture of 5 g (17 mmol) 1-iodo-3-trifluoromethoxy-benzene, 973 mg (1 mmol) Pd(PPh3)4 and 160 mg (1 mmol) cuprous iodide in 130 ml piperidine was stirred for 30 min at 50° C. under an argon atmosphere. 2.125 g (25 mmol) 4-Pentyn-1-ol was added within 60 min at 50° C. The temperature was raised to 80° C. and the mixture was stirred for 3 h at this temperature. The reaction mixture was cooled to ambient temperature, poured into a solution of saturated aqueous 10% KHSO4/ice water 1/1 and extracted two times with tert butyl methyl ether. The combined extracts were washed with water and brine (two times) and dried over sodium sulfate. The solvent was removed under reduced pressure and the residue purified by column chromatography (silica gel, heptane/AcOEt) to give 3.4 g of the title compound as orange oil.

reactant | 1-iodo-3-trifluoromethoxy-benzene | 17 mmol, 5 g | IC1=CC(=CC=C1)OC(F)(F)F | C7H4F3IO
reactant | 4-Pentyn-1-ol | 25 mmol, 2.125 g | C(CCC#C)O | C5H8O
solvent | piperidine | 130 ml | N1CCCCC1 | C5H11N
catalyst | Pd(PPh3)4 | 1 mmol, 973 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(4-Trifluoromethoxy-phenyl)-pent-4-yn-1-ol | 3.4 g | FC(OC1=CC=C(C=C1)C#CCCCO)(F)F | C12H11F3O2
